US05672617
40.7 g of ethyl 3-cyclopentylpropionate are placed in 400 ml of DMF at from 0° to 5° C., 14.4 g of sodium hydride (80% in oil) are added. After dropwise addition of 200 ml of ethyl formate, the mixture is stirred at 25° C. for 24 h. The mixture is stirred into 1.6 l of 10% HCl, extracted with 800 ml of methylene chloride and distilled. 19.7 g (41%) are obtained of ethyl 2-formyl-3-cyclopentylpropionate of boiling point 117° C./12 min.

reactant | ethyl 3-cyclopentylpropionate | 40.7 g | C1(CCCC1)CCC(=O)OCC | C10H18O2
reactant | sodium hydride | 14.4 g | [H-].[Na+]
reactant | ethyl formate | 200 ml | C(=O)OCC | C3H6O2
reactant | HCl | 1.6 l | Cl | ClH
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
product | ethyl 2-formyl-3-cyclopentylpropionate | C(=O)C(C(=O)OCC)CC1CCCC1 | C11H18O3
